US07598391B2
3-{2-[3-Cyclopentyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
{2-[3-Cyclopentyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester prepared as described in general procedure (A) using cyclopentyl-(trans-4-methylcyclohexyl)-amine and 5-aminothiazole-2-mercaptopropionic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound.

reactant | {2-[3-Cyclopentyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCCC1)=O | C21H33N3O3S2
reactant | cyclopentyl-(trans-4-methylcyclohexyl)-amine | C1(CCCC1)N[C@@H]1CC[C@H](CC1)C | C12H23N
reactant | 5-aminothiazole 2-mercaptopropionic acid ethyl ester | NC1=CN=CS1.C(C)OC(C(C)S)=O
product | 3-{2-[3-Cyclopentyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C1(CCCC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C19H29N3O3S2
